US05118856
132 g of dimethyl malonate are introduced into 1 liter of toluene and 180 g of 30% strength sodium methylate solution are added at room temperature. A crystal slurry results, to which 160 g of p-methylbenzalacetone are added dropwise, with vigorous stirring. In the course of 3 hours, the reaction mixture is heated, with methanol distilling off azeotropically, until the temperature at which the vapors pass over has reached 110° C. 106 g of butyryl chloride are then added at 80°-90° C. and stirring is continued briefly. 5 g of 4-N,N-dimethylaminopyridine are added, the mixture is stirred for 3-4 hours at 100° C. and the solvent is then evaporated. A solution of 120 g of sodium hydroxide in 1.5 liters of water is added to the residue and the mixture is stirred for 2 hours at 80° C. It is then acidified with 270 ml of concentrated hydrochloric acid at 60° C., and when the mixture has cooled to room temperature the precipitate is filtered off with suction and washed neutral with water. After it has been dried, 239 g (88%) of 2-butyryl-5-(p-toluyl)-cyclohexane-1,3-dione, of melting point 76°-78° C., are obtained.

reactant | dimethyl malonate | 132 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium methylate | C[O-].[Na+]
reactant | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | p-methylbenzalacetone | 160 g | CC1=CC=C(C=CC(C)=O)C=C1 | C11H12O
